US07919628B2
To a rapidly stirred solution of 1.5 g of bis[3,5-bis(trifluoromethyl)phenyl]diselenide (prepared as described in H. J. Reich et al., JACS, 1975, 5441) in 50 ml of trifluoroethanol under nitrogen was added 3.5 ml of 50% hydrogen peroxide followed by 5.0 g of 1-acetyl-4-fluoro-naphthalene. The mixture was stirred at room temperature for 20 h. To the mixture was added an additional 1.75 ml of 50% hydrogen peroxide after which the mixture was stirred at ambient temperature for 24 h. The mixture was poured into cold water, extracted with dichloromethane, washed with 10% sodium bisulfite, 10% sodium bicarbonate and brine, dried (magnesium sulfate), filtered and concentrated to an orange solid. The material was purified by chromatography on silica gel, eluting with ethyl acetate/heptanes to provide 1.82 g of 1-acetoxy-4-fluoro-naphthalene as an off-white solid.

reactant | bis[3,5-bis(trifluoromethyl)phenyl]diselenide | 1.5 g | FC(C=1C=C(C=C(C1)C(F)(F)F)[SeH-](=[Se])C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)(F)F
reactant | hydrogen peroxide | 3.5 ml | OO | H2O2
reactant | 1-acetyl-4-fluoro-naphthalene | 5.0 g | C(C)(=O)C1=CC=C(C2=CC=CC=C12)F | C12H9FO
reactant | hydrogen peroxide | 1.75 ml | OO | H2O2
reactant | water | O | H2O
reactant | trifluoroethanol | 50 ml | C(C(F)(F)F)O | C2H3F3O
product | 1-acetoxy-4-fluoro-naphthalene | 1.82 g | C(C)(=O)OC1=CC=C(C2=CC=CC=C12)F | C12H9FO2
